US04962096
1-(1-Fluorophenyl)-3-isoquinolinecarboxylic acid was converted into its ethylester and then reduced using lithium aluminum hydride to obtain 1-(1-fluorophenyl)-3-isoquinolinemethanol. 1.26 g of the obtained 1-(1-fluorophenyl)-3-isoquinolinemethanol was reacted with 930 mg of methyl p-toluenesulfonate in the same manner as in Reference Example 10 to give 1.6 g of the desired compound as a pale orange-colored solid.

reactant | 1-(1-Fluorophenyl)-3-isoquinolinecarboxylic acid | FC1(CC=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H12FNO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-(1-fluorophenyl)-3-isoquinolinemethanol | FC1(CC=CC=C1)C1=NC(=CC2=CC=CC=C12)CO | C16H14FNO
